US05492905
Trifurylphosphine (72 mg) was added to a toluene (150 mL) solution of tris(dibenzylideneacetone)dipalladium(0) (72 mg) at 25° C. The initial red color changed to yellow after 15 minutes of stirring. 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro1H-benz[b]azepine (3.5 g) was added to the yellow solution, followed by tetramethyltin (1.5 mL). The mixture was heated to reflux and after 5 hours cooled to 30° C. and palladium catalyst and trifurylphosphine added in equal amounts (70 mg). The mixture was reheated to reflux for 17 hours. Two more additions of catalyst were needed before the reaction was complete. The reaction mixture darkened to a green black color. The reaction mixture was filtered and the filtrate treated with 1M aqueous potassium fluoride (60 mL). The solution was filtered through a cake of diatomaceous earth and the layers separated. The organic layer was evaporated to a solid which was purified by chromatography, using ethyl acetate:hexane (3:2) as the eluent, to give a yellow solid which was recrystallized from hot toluene to give 8-chloro-3-methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine as a yellow solid; NMR: 3.81 (s,3), 2.04 (s,3); MS: m/z=252(M+1).

reactant | Trifurylphosphine | 72 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro1H-benz[b]azepine | 3.5 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | tetramethyltin | 1.5 mL | C[Sn](C)(C)C
catalyst | palladium | [Pd] | Pd
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 72 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-3-methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | ClC=1C=CC2=C(NC(C(=C(C2=O)C)OC)=O)C1 | C12H10ClNO3
